US06559172B1
Preparation of (4R*,5R*)-5-(4-Methoxy-3-methyl-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole
In a manner analogous to Preparation 1, 3-methyl-p-anisaldehyde (0.73 mL, 5.25 mmol), tosylmethylisocyanide (0.98 g, 5.00 mmol) and NaCN (24.5 mg, 0.50 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 346.7 (M+H+).

reactant | 3-methyl-p-anisaldehyde | 5.25 mmol, 0.73 mL | CC=1C=C(C=O)C=CC1OC | C9H10O2
reactant | tosylmethylisocyanide | 5.00 mmol, 0.98 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.50 mmol, 24.5 mg | [C-]#N.[Na+]
product | (4R*,5R*)-5-(4-Methoxy-3-methyl-phenyl)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | COC1=C(C=C(C=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C)C | C18H19NO4S
